US07091371B2
4-(2-Trifluoromethylphenyl)-3-buten-2-one
11 g of N-methoxy-N-methyl-3-(2-trifluoromethylphenyl)acrylamide are dissolved in 150 ml of dry tetrahydrofuran under a nitrogen atmosphere, cooled to −78° C. and treated dropwise with 36 ml of a 1.4N solution of methyllithium in diethyl ether in 10 minutes. The solution is subsequently furthermore stirred at −78° C. for 2 h and then hydrolysed with water. 200 ml of ethyl acetate are now added at ambient temperature and the mixture is washed three times with saturated sodium chloride solution. The organic phase is finally separated, dried with magnesium sulfate and evaporated under reduced pressure. After purifying by flash chromatography, the title compound is thus obtained.

reactant | N-methoxy-N-methyl-3-(2-trifluoromethylphenyl)acrylamide | 11 g | CON(C(C=CC1=C(C=CC=C1)C(F)(F)F)=O)C | C12H12F3NO2
reactant | methyllithium | C[Li]
reactant | water | O | H2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(2-Trifluoromethylphenyl)-3-buten-2-one | FC(C1=C(C=CC=C1)C=CC(C)=O)(F)F | C11H9F3O
